US08859571B2
5,6,7-tris(methyloxy)-4(1H)-quinazolinone (0.8 g, 3.39 mmol) was treated with POCl3 (10 ml, 107 mmol) and one drop of DMF, and stirred at 100° C. for 1 hour before being concentrated. The residue was treated with saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic extracts were dried (sodium sulfate) and concentrated to give 4-chloro-5,6,7-tris(methyloxy)quinazoline (770 mg, 89%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.88 (s, 1 H), 7.37 (s, 1 H), 4.04 (s, 3 H), 3.94 (s, 3 H), 3.91 (s, 3 H). MS (m/z) 255.0 (M+H+).

reactant | 5,6,7-tris(methyloxy)-4(1H)-quinazolinone | 3.39 mmol, 0.8 g | COC1=C2C(N=CNC2=CC(=C1OC)OC)=O | C11H12N2O4
reactant | POCl3 | 107 mmol, 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 4-chloro-5,6,7-tris(methyloxy)quinazoline | 770 mg, 89% | ClC1=NC=NC2=CC(=C(C(=C12)OC)OC)OC | C11H11ClN2O3
